US07423150B2
To a solution of triphenylphosphine(2 eq) in dichloromethane at 0° C. under nitrogen was added dropwise triflic anhydride(1 eq). After 15 minutes 2-(2-fluoro-5-nitrophenyl)-2-methylbutane-1,4-diol(1 eq)was added in dichloromethane followed by potassium carbonate(1 eq). The resulting mixture was allowed to warm to room temperature for 5 h. To the mixture was added water and extracted with dichloromethane. The organic layer was washed with brine and dried with sodium sulfate and concentrated. Crude product was purified using flash chromatography (85% Hex:15% EtoAc) on silica to afford 3-(2-fluoro-5-nitrophenyl)-tetrahydro-3-methylfuran.

reactant | triphenylphosphine | 2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triflic anhydride | 1 eq | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2-(2-fluoro-5-nitrophenyl)-2-methylbutane-1,4-diol | 1 eq | FC1=C(C=C(C=C1)[N+](=O)[O-])C(CO)(CCO)C | C11H14FNO4
reactant | potassium carbonate | 1 eq | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-(2-fluoro-5-nitrophenyl)-tetrahydro-3-methylfuran | FC1=C(C=C(C=C1)[N+](=O)[O-])C1(COCC1)C | C11H12FNO3
